US04029816
To a solution of 2-aminomethyl-4-(1,1-dimethylethyl)phenol hydrochloride (215 g., 1.0 mole) in water (1.6 l.) is added a solution of iodine monochloride (165 g., 1.0 mole) in 3N hydrochloric acid (800 ml.). The resulting reaction mixture is stirred at 20° C. for 3 hours and then cooled to -20° C. whereupon solid is deposited. The deposited solid is collected and crystallized from ethanol 12N-hydrochloric acid (1:1) to give the desired 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol hydrochloride (277 g.), m.p. 200°-201° C. (dec.).

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)phenol hydrochloride | 1.0 mole, 215 g | Cl.NCC1=C(C=CC(=C1)C(C)(C)C)O
reactant | iodine monochloride | 1.0 mole, 165 g | ICl | ClI
solvent | water | 1.6 l | O | H2O
solvent | hydrochloric acid | 3N, 800 ml | Cl | ClH
product | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol hydrochloride | 277 g | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)I)O | InChI=1S/C11H16INO.ClH/c1-11(2,3)8-4-7(6-13)10(14)9(12)5-8;/h4-5,14H,6,13H2,1-3H3;1H
